US06413995B1
4 ml of chloromethyl methyl ether was added dropwise to a solution of 4′-hydroxyacetophenone (5.44 g) and diisopropylethylamine (10 ml) in 40 ml dinethylformamide at room temperature and stirred at room temperature for 3 hours. After addition of 2 mol/l hydrochloric acid, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over magnesium sulfate. The drying agent was filtered off and the solvent was evaporated to give a residue, which was then purified via column chromatography on silica gel (hexane:ethyl acetate=7:1) to provide 4′-(methoxymethoxy)acetophenone (6.73 g, 93%) as a colorless oil.

reactant | chloromethyl methyl ether | 4 ml | COCCl | C2H5ClO
reactant | 4′-hydroxyacetophenone | 5.44 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | hydrochloric acid | 2 mol/l | Cl | ClH
solvent | diisopropylethylamine | 10 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 4′-(methoxymethoxy)acetophenone | 6.73 g, 93% | COCOC1=CC=C(C=C1)C(C)=O | C10H12O3
